US07872141B2
194 g 3-nitro-benzenesulfonyl chloride (1.13 equiv.) were charged in the reaction vessel followed by 1.3 l isopropyl acetate and the solution was cooled to 0-5° C. A solution of 65 g 2,2-difluoroethanol (753 mmol, 1 equiv.), 163 ml triethylamine (1.55 equiv.) and 325 ml isopropyl acetate was added dropwise over 30 min, keeping the temperature between 0-5° C. After 4 h reaction (HPLC in process control), the reaction mixture was washed with 650 ml water. The water phase was re-extracted with 650 ml isopropyl acetate. The organic phases were washed with 650 ml 1M HClaq and 650 ml 10% NaClaq solution. The organic phases were combined, dried over MgSO4, filtered and concentrated to dryness under reduced pressure to give 196 g 2,2-difluoroethyl 3-nitrobenzenesulfonate (97% yield) as a viscous oil which crystallized on standing. The product can also be crystallized from isopropanol (seeding at 30° C., concentration: ca 13 L/kg product).

reactant | 3-nitro-benzenesulfonyl chloride | 194 g, 1.13 equiv. | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | isopropyl acetate | 1.3 l | C(C)(=O)OC(C)C | C5H10O2
reactant | 2,2-difluoroethanol | 753 mmol, 65 g, 1 equiv. | FC(CO)F | C2H4F2O
reactant | triethylamine | 163 ml, 1.55 equiv. | C(C)N(CC)CC | C6H15N
reactant | isopropyl acetate | 325 ml | C(C)(=O)OC(C)C | C5H10O2
product | 2,2-difluoroethyl 3-nitrobenzenesulfonate | 196 g, 97% yield | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OCC(F)F | C8H7F2NO5S
